US08580794B2
1,1-Dioxotetrahydro-2H-thiopyran-4-amine
N-Benzyl-1,1-dioxotetrahydro-2H-thiopyran-4-amine (2.00 g) was added to ethanol (40 mL) in a pressure bottle. Palladium hydroxide on carbon (0.587 g) was added and the solution was stirred under 30 psi of hydrogen at room temperature for 2 hours. The mixture was filtered though a nylon membrane and the solvent was removed under vacuum.

reactant | N-Benzyl-1,1-dioxotetrahydro-2H-thiopyran-4-amine | 2.00 g | C(C1=CC=CC=C1)NC1CCS(CC1)(=O)=O | C12H17NO2S
reactant | hydrogen | [H][H] | H2
catalyst | Palladium hydroxide on carbon | 0.587 g | [OH-].[OH-].[Pd+2]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 1,1-Dioxotetrahydro-2H-thiopyran-4-amine | O=S1(CCC(CC1)N)=O | C5H11NO2S
